Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / latex
 
Attending: ___.
 
Chief Complaint:
Bradycardia
 
Major Surgical or Invasive Procedure:
Pacemaker placement ___

 
History of Present Illness:
___ with chronic neutropenia and lyme carditis c/b intermittent
heart block responsive to CTX who presents from home after ___
monitor demonstrated bradycardia to 30's this morning.  She came
into the ___ ED where she received 1 gram of CTX, was 
evaluated
by EP, and recommended for admission and ID evaluation for
possible recurrent lyme carditis.  

In ___ she developed fatigue, dizziness, and increased 
season
allergy symptoms provoking sinusitis.  She was started on
augmentin but her symptoms were persistent.  She presented to
___ where she was bradycardic to 40's with ___ AV
block.  ___ of cardiology evaluated for secondary
causes of heart block.  Troponin negative, TTE without wall
motion abnormalities.  ___ PCR and IgM
positive, IgG negative.  Treated with CTX for 3 days with
resolution into NSR then transitioned to 21 days of doxycycline.

She never fully recovered after her first hospitalization, and
continued to feel fatigued despite completion of 21 days of
doxycycline.  She had recurrence of dyspnea in early ___ 
and
was admitted to ___ with ___ AV block.  This was
suspected to be failure of treatment of her lyme disease and was
given IV CTX for 3 days, with resolution into NSR with HR in the
70's.  Since discharge on ___ she has continued to have fatigue
and occasional dizziness.  She was evaluated by Dr. ___
Dr. ___ ___ and found to still be in NSR.  She denied CP,
palpitations, PND, orthopnea, edema, or syncopal events however
she noted that she had to reduce her activities including golf. 
She was started on ___ monitor to observe for recurrence of
bradycardia.  She felt increasingly better, ___ on ___, then
started to feel worse as of ___.

She notes no prior history of tick bites or lyme in the past. 
She does occasionally go into wooded areas especially with her
regular golfing (was playing ___ per week prior to onset in
___.   

Her neutropenia is chronic in nature, starting around ___ years
ago.  She was seen by a hematologist for around ___ years and 
her
lab abnormalities resolved and required no further follow up. 
Around ___ years ago, she had asymptomatic neutropenia and was
referred by her PCP to be followed by Dr. ___
hematology/oncology at ___.  She last saw him in ___
and he had signed off as although she was chronically
neutropenic, she was asymptomatic and healthy overall.  She 
notes
that she has had an attempted BM biopsy once before in the past,
but unsure if it was successful as there was an issue of "hard
bones."

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
- Lyme myocarditis, diagnosed in early ___, treated 
with
CTX and doxycycline
- Chronic neutropenia 

Past Surgical History
- Nose
- ___ cataract surgery in last ___ years.

 
Social History:
___
Family History:
HTN in her parents, mother died from MI at ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: ___, 35, 18, 112/47, 18, 97% on RA.
GENERAL: Young appearing woman in NAD.  Cooperative.  
HEENT: PERRLA, EOMI Conjunctiva were pink, no pallor or cyanosis
of the oral mucosa. No xanthelasma.  
NECK: Supple with 4 cm JVD at 70 degrees.  
CARDIAC: Bradycardia, normal S1, S2. No murmurs/rubs/gallops. No
thrills, lifts.  
LUNGS: Rough mid-inspiratory crackles of right posterior middle
field. 
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM
=======================
VS: 98.2F, 87, 149/85, 18, 96% on RA
GENERAL: Young appearing woman in NAD.  Cooperative.  
HEENT: PERRLA, EOMI Conjunctiva were pink, no pallor or cyanosis
of the oral mucosa. No xanthelasma.  
NECK: Supple with no JVD.  
CHEST: TTP 3 cm lateral to R. parasternal border.
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills,
lifts.  
LUNGS: CTAB with no w/c/r
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

 
Pertinent Results:
ADMISSION LABS
==============

___ 07:35AM BLOOD WBC-1.9* RBC-4.63 Hgb-13.6 Hct-39.4 
MCV-85 MCH-29.4 MCHC-34.5 RDW-12.4 RDWSD-38.0 Plt ___
___ 07:35AM BLOOD ___ PTT-26.9 ___
___ 07:35AM BLOOD Glucose-97 UreaN-17 Creat-0.9 Na-141 
K-7.5* Cl-105 HCO3-22 AnGap-14
___ 07:35AM BLOOD ALT-<5 AST-94* AlkPhos-33* TotBili-0.2
___ 07:35AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 07:35AM BLOOD Albumin-4.1 Calcium-9.2 Phos-4.6* Mg-2.3
___ 07:35AM BLOOD CRP-1.9

PERTINENT RESULTS
=================

___ 10:25AM BLOOD D-Dimer-1633*
___ CTA
No evidence of pulmonary embolism or aortic abnormality. 
Postprocedure changes are seen along the left anterior chest 
wall following recent pacemaker placement. 

DISCHARGE LABS
==============
___ 07:40AM BLOOD WBC-2.0* RBC-4.19 Hgb-12.2 Hct-35.0 
MCV-84 MCH-29.1 MCHC-34.9 RDW-12.1 RDWSD-36.7 Plt ___
___ 07:55AM BLOOD ___ PTT-26.7 ___
___ 07:40AM BLOOD Calcium-9.4 Phos-3.8 Mg-2.___ with chronic neutropenia and possible lyme carditis who 
presented with bradycardia and complete heart block whose 
condition improved after pacemaker placement.

#BRADYCARDIA
Bradycardia to ___ with third degree heart block on EKG. 
Etiology likely lyme carditis as prior lyme serologies positive
for lyme IgM and improvement with prior 3 day courses of CTX. 
However, we were unable to determine the definitive cause. She 
was started on CTX while in the hospital without improvement. ID 
was consulted and felt that no further abx therapy was 
indicated. She received a pacemaker without complications, and 
was discharged with a paced rhythm.

#CHEST PAIN
She developed chest pain during her pacemaker procedure ___, 
right sided with radiation to the scapula. It improved with 
Tylenol and repositioning. The pain returned one day post 
procedure, recreated with direct palpation. Her Well's score was 
0, however her D-dimer was elevated up to 1633, and CTA chest 
was ordered to eval for PE, which showed no PE.

CHRONIC ISSUES
==================
#CHRONIC NEUTROPENIA:
Present over the last ___ years. Follows at hematology oncology
at ___ by Dr. ___. All studies pan-negative
from outside records. Stable.

TRANSITIONAL ISSUES
====================
New Medications: Keflex, ibuprofen.

- PCP follow up with Dr. ___ on ___ at 2:30 ___.
- Patient will follow-up with Dr. ___ in EP on ___ at 
9:00 AM. 
- Patient will continue Keflex ___ mg Q6H for total 7 day course 
(D111/___ - ___. 
- Please follow-up the final Lyme IgM antibody result. Lyme IgG 
was negative on this admission. Per ID Consult, the patient does 
not require further antibiotic therapy for lyme disease at this 
time.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 5 mg PO QPM 
2. Ipratropium-Albuterol Inhalation Spray 2 INH IH BID:PRN 
Congestion 
3. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. ___ Oil (Omega 3) 1000 mg PO BID 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H Duration: 7 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*24 Capsule Refills:*0 
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *ibuprofen 600 mg 1 tablet(s) by mouth Q6H PRN Disp #*21 
Tablet Refills:*0 
3.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY  
4.  ___ Oil (Omega 3) 1000 mg PO BID  
5.  Ipratropium-Albuterol Inhalation Spray 2 INH IH BID:PRN 
Congestion  
6.  Multivitamins 1 TAB PO DAILY  
7.  Rosuvastatin Calcium 5 mg PO QPM  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
Bradycardia with complete heart block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHAT BROUGHT YOU INTO THE HOSPITAL?
- You were admitted for very slow heart rates
- You were admitted for signs of poor conduction in the heart 
(called heart block)
- These were both thought to be due to a prior Lyme disease 
infection.

WHAT WAS DONE FOR YOU IN THE HOSPITAL?
- Your heart rates were monitored due to your slow heart rate 
and problems with conduction
- You were given an antibiotic through IV called ceftriaxone.
- You had a pacemaker put in to control your heart rate.
- You were seen by our hematology/oncology doctors for your 
___ issue of chronic neutropenia, they felt there were 
no further tests or medicines needed at this time for this 
condition.
- Your chest pain was concerning for a blood clot in your lungs, 
we did a CT scan that showed no signs of blood clots in your 
lungs.
- You were ordered the medicine ibuprofen to treat your chest 
pain.

WHAT SHOULD YOU DO AFTER LEAVING THE HOSPITAL?
- You should continue taking the antibiotic Keflex until ___
- Follow up with your PCP ___ on ___ at 2:30 ___.
- Follow up with the cardiologist, Dr. ___, on ___ 
___ at 9:00 AM.  
- Continue taking all of your other medications as prescribed.

We wish you the ___ in your recovery!

Your ___ Care Team
 
Followup Instructions:
___